US07576115B2
1) Synthesis of methyl 2-bromo-4-[(2-{1-[5-(4-tert-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]benzoate
1-[5-(4-tert-Butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone (0.554 mmol, 150.9 mg) synthesized in Synthetic Example 3, methyl 2-bromo-4-hydrazinocarbonylbenzoate (0.554 mmol, 150.8 mg) synthesized in Reference Synthetic Example 42 and p-tosylic acid monohydride (30 mol %, 28.6 mg) were dissolved in isopropyl alcohol (15 mL) and stirred under heating with reflux for 8 hours, and the reactor was cooled to 0° C. The reaction solution was filtered and dried by means of a vacuum pump to give the desired product as a white solid (252.3 mg, yield 86%).

reactant | 1-[5-(4-tert-Butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone | 0.554 mmol, 150.9 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=O)O | C16H20N2O2
reactant | methyl 2-bromo-4-hydrazinocarbonylbenzoate | 0.554 mmol, 150.8 mg | BrC1=C(C(=O)OC)C=CC(=C1)C(=O)NN | C9H9BrN2O3
solvent | isopropyl alcohol | 15 mL | C(C)(C)O | C3H8O
product | methyl 2-bromo-4-[(2-{1-[5-(4-tert-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]benzoate | 252.3 mg, yield 86% | BrC1=C(C(=O)OC)C=CC(=C1)C(=O)NN=C(C)C1=NN(C(=C1O)C1=CC=C(C=C1)C(C)(C)C)C | C25H27BrN4O4
